US05714489
a) 2-Benzoylaminomethyl-2,5-dimethoxytetrahydrofuran
10 g (62 mmol) of 2-aminomethyl-2,5-dimethoxytetrahydrofuran and 17 ml (123 mmol) triethylamine were dissolved in 100 ml of anhydrous tetrahydrofuran. At 0° C., 7.2 ml (62 mmol) of benzoyl chloride were added dropwise, and the mixture was stirred at 0° C. for 1 h and then filtered, and the filtrate was concentrated under reduced pressure to yield 17 g of the crude product which was immediately reacted further.

reactant | 2-aminomethyl-2,5-dimethoxytetrahydrofuran | 62 mmol, 10 g | NCC1(OC(CC1)OC)OC | C7H15NO3
reactant | triethylamine | 123 mmol, 17 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 62 mmol, 7.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Benzoylaminomethyl-2,5-dimethoxytetrahydrofuran | 17 g | C(C1=CC=CC=C1)(=O)NCC1(OC(CC1)OC)OC | C14H19NO4
